US06204249B1
4,6-Dichloro-2-(isopropylamino)-1H-benzimidazole
3,5-Dichloro-1,2-phenylenediamine (1.30 g, 7.32 mmol), isopropyl isothiocyanate (0.81 g, 8.00 mmol), 1-cyclohexyl-3-(2-morpholinoethyl) carbodiimide metho-p-toluenesulfonate (4.19 g, 9.89 mmol) and pyridine (25 mL) were used according to general procedure I. The product was recrystallized from 1,4-dioxane to afford 1.07 g (60%) of a white solid. Anal. calcd for C10H11Cl2N3-(0.25 C4H8O2): C, 49.64; H, 4.92; N, 15.79. Found: C, 49.54; H, 4.94; N, 15.79.

reactant | 3,5-Dichloro-1,2-phenylenediamine | 7.32 mmol, 1.30 g | ClC=1C(=C(C=C(C1)Cl)N)N | C6H6Cl2N2
reactant | isopropyl isothiocyanate | 8.00 mmol, 0.81 g | C(C)(C)N=C=S | C4H7NS
reactant | 1-cyclohexyl-3-(2-morpholinoethyl) carbodiimide metho-p-toluenesulfonate | 9.89 mmol, 4.19 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 4,6-Dichloro-2-(isopropylamino)-1H-benzimidazole | 1.07 g, 60% | ClC1=CC(=CC=2NC(=NC21)NC(C)C)Cl | C10H11Cl2N3
